US06869974B1
To a mixture of 4-[(2-amino-3,5-dibromophenyl)methylamino-]cyclohexanol (5 g, 13.22 mmoles) in dioxane (35 ml) and water (50 ml), triethylamine (3.31 ml, 23.7 mmoles) and di-ter-butyldicarbonate (3.46 g, 15.86 mmoles) are added under stirring. After 24 hours the solution is concentrated under vacuum, a HCl 1% solution until neutral pH (pM=7) is added and the organic phase is extracted with ethyl acetate. The organic phase is anhydrified with sodium sulphate and evaporated under vacuum. 4[(2-ter-butoxycarbonylamino-3,5-dibromophenyl) methyl amino]cyclohexanol is obtained which is used without further purification.

reactant | 4-[(2-amino-3,5-dibromophenyl)methylamino-]cyclohexanol | 13.22 mmoles, 5 g | NC1=C(C=C(C=C1Br)Br)CNC1CCC(CC1)O | C13H18Br2N2O
reactant | triethylamine | 23.7 mmoles, 3.31 ml | C(C)N(CC)CC | C6H15N
reactant | di-ter-butyldicarbonate | 15.86 mmoles, 3.46 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 4[(2-ter-butoxycarbonylamino-3,5-dibromophenyl) methyl amino]cyclohexanol | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1Br)Br)CNC1CCC(CC1)O | C18H26Br2N2O3
